US05561101
3,6-dichloro-2-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]benzoic acid, isopropylammonium salt (Table C, cpd. no. 481)
24.13 g of 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide is slurried in 500 ml of methylene dichloride and 200 ml of methanol and 125 ml of freshly distilled isopropylamine added. The mixture is heated to reflux and the solution filtered, cooled and stripped. The solid is dried in vacuum for 4 hrs at 45° C. to give the title product m.p. 194°-196° C.

reactant | 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide | 24.13 g | ClC1=C2C(OC(=O)C2=C(C=C1)Cl)(O)C1=NC(=CC(=N1)OC)OC | C14H10Cl2N2O5
reactant | methanol | 200 ml | CO | CH4O
reactant | isopropylamine | C(C)(C)N | C3H9N
solvent | methylene dichloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 3,6-dichloro-2-[(4,6-dimethoxy-2-pyrimidinyl)carbonyl]benzoic acid, isopropylammonium salt | C(C)(C)[NH3+].ClC=1C(=C(C(=O)[O-])C(=CC1)Cl)C(=O)C1=NC(=CC(=N1)OC)OC | InChI=1S/C14H10Cl2N2O5.C3H9N/c1-22-8-5-9(23-2)18-13(17-8)12(19)10-6(15)3-4-7(16)11(10)14(20)21;1-3(2)4/h3-5H,1-2H3,(H,20,21);3H,4H2,1-2H3
